US07834015B2
Step 1: 1-{[(4-Chloro-1H-pyrrol-2-yl)carbonyl]oxy}pyrrolidine-2,5-dione (F1)
A mixture of 4-chloro-1H-pyrrole-2-carboxylic acid (1 eq), N-hydroxysuccinimide (1 eq) and DCC (1.05 eq) in dry THF was stirred at RT for 12 h. The solid urea was filtered off and washed with THF. The filtrate was evaporated under reduced pressure and the resulting crude was purified by on silica gel eluting with petrol ether/EtOAc to obtain the title compound as a white-off powder. 1H NMR (400 MHz, DMSO-d6) δ: 12.87 (1H, br. S), 7.50-7.45 (1H, m), 7.16-7.12 (1H, m), 2.87 (4H, s).

reactant | 4-chloro-1H-pyrrole-2-carboxylic acid | 1 eq | ClC=1C=C(NC1)C(=O)O | C5H4ClNO2
reactant | N-hydroxysuccinimide | 1 eq | ON1C(CCC1=O)=O | C4H5NO3
reactant | DCC | 1.05 eq | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | C1CCOC1 | C4H8O
product | 1-{[(4-Chloro-1H-pyrrol-2-yl)carbonyl]oxy}pyrrolidine-2,5-dione | ClC=1C=C(NC1)C(=O)ON1C(CCC1=O)=O | C9H7ClN2O4
